US09328096B2
Methyl 2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
Methyl 2,4-dichlorobenzoate (2 g, 9.75 mmol), bis(pinacolato)diboron (1.89 g, 7.3 mmol) and 4,4′-di-tert-butyl-2,2′-bipyridine (105 mg, 0.39 mmol) were dissolved in anhydrous tetrahydrofuran (20 mL) and degassed with nitrogen for 15 minutes. [Ir(COD)OMe]2 (129 mg, 0.2 mmol) was added, the reaction degassed for a further 5 minutes and then heated to reflux under an atmosphere of nitrogen for 3 hours. The solution was used crude with an assumed quantitative yield in the next step.

reactant | Methyl 2,4-dichlorobenzoate | 9.75 mmol, 2 g | ClC1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O2
reactant | bis(pinacolato)diboron | 7.3 mmol, 1.89 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 4,4′-di-tert-butyl-2,2′-bipyridine | 0.39 mmol, 105 mg | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Methyl 2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | quantitative yield | ClC1=C(C(=O)OC)C=C(C(=C1)Cl)B1OC(C(O1)(C)C)(C)C | C14H17BCl2O4
